US09403810B2
Step 8: [2-Oxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate]
A solution of diisopropylamine (0.407 mL, 2.85 mmol) in THF (25 mL), under nitrogen, was cooled to −78° C. and treated with n-BuLi (1.0 M in hexanes) (1.702 mL, 2.72 mmol). The reaction mixture was warmed to 0° C. over 30 mins and cooled to −78° C. before adding 2-oxaspiro[4.5]decan-8-one (400 mg, 2.59 mmol) in THF (25 mL). After 1.5 hours at −78° C. the reaction mixture was treated with 1,1,1-trifluoro-N-(pyridin-2-yl)-N-((trifluoromethyl)sulfonyl)methanesulfonamide (1208 mg, 3.37 mmol) in THF (10 mL) and allowed to warm to room temperature overnight. Saturated aqueous NaHCO3 solution was added followed by dilution with EtOAc. The organic layer was dried over MgSO4, filtered and the solvent removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-25% EtOAc in iso-hexane afforded the title compound;

reactant | diisopropylamine | 2.85 mmol, 0.407 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.72 mmol, 1.0 M, 1.702 mL | [Li]CCCC
reactant | 2-oxaspiro[4.5]decan-8-one | 2.59 mmol, 400 mg | C1OCCC12CCC(CC2)=O | C9H14O2
reactant | 1,1,1-trifluoro-N-(pyridin-2-yl)-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 3.37 mmol, 1208 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=CC=C1)(F)F | C7H4F6N2O4S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Oxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CCC2(CCOC2)CC1)(F)F | C10H13F3O4S
